US05087440
To a 2-liter round bottom flask containing morpholine (400 mL, 4.60 mol) was added DTPA dianhydride (71.5 g, 200 mmol) followed by 150 mL of water. The reaction was stirred for 24 hours and concentrated. The crude material was evaporated three times from 400 mL water and then stirred with 1 L of dry ethanol at 50° C. for 18 hours. The suspension was filtered and the solids were purified by ion-exchange chromatography on AGl-X8 (hydroxide form) resin eluting with water followed by 0.2 N acetic acid to afford 53.0 g of DTPA-BMO.

reactant | morpholine | 4.60 mol, 400 mL | N1CCOCC1 | C4H9NO
reactant | DTPA dianhydride | 200 mmol, 71.5 g | C1C(=O)OC(=O)CN1CC[NH+](CCN2CC(=O)OC(=O)C2)CC(=O)[O-] | C14H19N3O8
reactant | water | 150 mL | O | H2O
product | DTPA | 53.0 g | C(CN(CC(=O)O)CC(=O)O)N(CCN(CC(=O)O)CC(=O)O)CC(=O)O | C14H23N3O10
